US07737149B2
4-(1,4-diazepan-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide
4-(1,4-diazepan-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide was prepared following the procedure as outlined for Example 99, starting from ethyl 4-(1,4-diazepan-1-yl)benzoate (0.497 g, 2 mmol) and 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (0.495 g, 2.00 mmol) and 2M trimethylaluminium (2.50 mL, 5.0 mmol) in toluene (10 ml). The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 10% 2.5 M ammonia MeOH in DCM. Fractions containing the product were evaporated to dryness and further purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (0.024 g, 2.67%) as a white solid.

reactant | ethyl 4-(1,4-diazepan-1-yl)benzoate | 2 mmol, 0.497 g | N1(CCNCCC1)C1=CC=C(C(=O)OCC)C=C1 | C14H20N2O2
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 2.00 mmol, 0.495 g | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | trimethylaluminium | 5.0 mmol, 2M, 2.50 mL | C[Al](C)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1,4-diazepan-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide | 0.024 g, 2.67% | N1(CCNCCC1)C1=CC=C(C(=O)NC=2NN=C(C2)CCC2=CC(=CC(=C2)OC)OC)C=C1 | C25H31N5O3
